US08957203B2
Step 2: Preparation of 3-(4-isopropoxyphenyl)-6-methoxyisoquinolin-1(2H)-one
To a stirred solution of N,N-diethyl-4-methoxy-2-methylbenzamide (3.5 g, 15.82 mmol) in THF (35 ml) was added n-BuLi (2.82 ml, 4.52 mmol, in hexane) at −78° C. and stirred for 1 h. 4-isopropoxy benzonitrile (2.55 g, 15.82 mmol) was added at same temperature and allowed to warm to room temperature and continued the stirring for another 1 h at room temperature. The reaction mixture was quenched with saturated aqueous NH4Cl solution and extracted with EtOAc (2*100 ml). The organic phase was washed with brine then dried on Na2SO4 and evaporated under reduced pressure to get crude compound. The crude compound was purified by silica gel chromatography (20% ethyl acetate in pet ether) to get desired compound (3.5 g, 71.5%) as white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 11.21(s, 1H), 8.09-8.07 (d, J=8 Hz, 1H), 7.71-7.69 (d, J=8 Hz, 2H), 7.14 (d, J=8 Hz, 1H), 7.03-7.01 (d, J=8 Hz, 3H), 6.76 (s, 1H), 4.71 (m, 1H), 3.88 (s, 3H), 1.30 (m, 6H); MS: MS m/z 310.7 (M++1).

reactant | N,N-diethyl-4-methoxy-2-methylbenzamide | 15.82 mmol, 3.5 g | C(C)N(C(C1=C(C=C(C=C1)OC)C)=O)CC | C13H19NO2
reactant | n-BuLi | 4.52 mmol, 2.82 ml | [Li]CCCC
reactant | 4-isopropoxy benzonitrile | 15.82 mmol, 2.55 g | C(C)(C)OC1=CC=C(C#N)C=C1 | C10H11NO
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 3-(4-isopropoxyphenyl)-6-methoxyisoquinolin-1(2H)-one | 3.5 g, 71.5% | C(C)(C)OC1=CC=C(C=C1)C=1NC(C2=CC=C(C=C2C1)OC)=O | C19H19NO3
